US05849755
c) 3-(5-Chloro-2-methoxybenzamido)-7-methylchroman
7.7 g (22 mmol) of 3-(5-chloro-2-methoxybenzamido)-7-methylchroman-4-ol were hydrogenated in a mixture of 80 ml of glacial acetic acid, 7.5 ml of acetic anhydride and 0.5 ml of trifluoroacetic acid with 0.5 g of Pd/C (10 %) at 25° C. under atmospheric pressure for about 3 hours. The catalyst was filtered off and the filtrate was concentrated to a small volume in vacuo. The residue was introduced into ice/water and the mixture was extracted several times with methylene chloride. The combined methylene chloride extracts were washed with sodium bicarbonate solution and water, dried and concentrated and the residue was recrystallized from diisopropyl ether. The 3-(5-chloro-2-methoxybenzamido)-7-methylchroman had a melting point of 97° C.

reactant | 3-(5-chloro-2-methoxybenzamido)-7-methylchroman-4-ol | 22 mmol, 7.7 g | ClC=1C=CC(=C(C(=O)NC2COC3=CC(=CC=C3C2O)C)C1)OC | C18H18ClNO4
reactant | acetic anhydride | 7.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 3-(5-Chloro-2-methoxybenzamido)-7-methylchroman | ClC=1C=CC(=C(C(=O)NC2COC3=CC(=CC=C3C2)C)C1)OC | C18H18ClNO3
